US05798311
a: 2-(N-propargyl-N-carbomethoxyamino)-4'-chloroacetophenone
To 25 g (454 mmole) of propargylamine in 200 ml of methylene chloride cooled to -40° C. was rapidly added 46 g (200 mmole) of 2-bromo-4'-chloroacetophenone dissolved in 200 ml of methylene chloride. The temperature rose to 0° C. and was maintained there for 15 minutes. The reaction mixture was washed with 250 ml of 1M sodium hydroxide and recooled to -20° C. whereon 22 g (233 mmole) of methyl chloroformate was added while maintaining an internal temperature of -20° C., then 20 g (253 mmole) of pyridine was added. After stirring for 1 hour the mixture was concentrated in vacuo, partitioned between diethyl ether and water, washed with dilute hydrochloric acid, washed with brine, dried over anhydrous magnesium sulfate, reconcentrated in vacuo, and chromatographed over silica gel using diethyl ether and hexanes to yield 34 g of the expected compound, an oil.

reactant | propargylamine | 454 mmole, 25 g | C(C#C)N | C3H5N
reactant | 2-bromo-4'-chloroacetophenone | 200 mmole, 46 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | pyridine | 253 mmole, 20 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-(N-propargyl-N-carbomethoxyamino)-4'-chloroacetophenone | 34 g | C(C#C)N(C(=O)OC)CC(=O)C1=CC=C(C=C1)Cl | C13H12ClNO3
